US08541404B2
A solution of N-(4-bromo-2-fluorophenyl)-2-hydroxyacetamide (8.0 g, 32.3 mmol) in 50 ml dry DMF was added drop wise to a suspension of sodium hydride (5.2 g, 129 mmol) in 30 ml dry DMF and the mixture was stirred for 2 h under an atmosphere of nitrogen at 140° C. After cooling to ambient temperature water was added and the mixture was extracted several times with ethyl acetate. After washing the combined organic layers with brine and drying over MgSO4 the solvent was removed under reduced pressure and the crude product was obtained as a pale yellow solid. Purification by flash chromatography on silica gel (dichloromethane/methanol, 97/3, Rf=0.35) yielded 7-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one (2.3 g, 10.1 mmol, 31%) as off-white solid.

reactant | N-(4-bromo-2-fluorophenyl)-2-hydroxyacetamide | 32.3 mmol, 8.0 g | BrC1=CC(=C(C=C1)NC(CO)=O)F | C8H7BrFNO2
reactant | sodium hydride | 129 mmol, 5.2 g | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 7-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one | 10.1 mmol, 2.3 g, 31% | BrC=1C=CC2=C(OCC(N2)=O)C1 | C8H6BrNO2
